US05294734
11.5 g (26.4 mmol) of ethyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate are dissolved in 70 ml of abs. CH2Cl2 and to this solution are added 13.7 ml (105.6 mmol) of trimethylbromosilane. The reaction mixture is allowed to stand for 24 hours at room temperature and, after addition of 70 ml of abs. ethanol, allowed to stand again for 24 hours. The reaction mixture is concentrated by evaporation and the residue is dissolved in 70 ml of ethanol. A mixture of 70 ml of propylene oxide and 70 ml of ethanol is then added dropwise. The white suspension so obtained is stirred for 30 minutes at room temperature and for 30 minutes at 0° C. and then filtered with suction. The filter product is dried giving white crystals of ethyl 2-amino-6-hydroxy-4-phosphonomethyl-hept-3-enoate with a melting point of 211°-212° C. (decomp.).

reactant | ethyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate | 26.4 mmol, 11.5 g | C(C)(=O)OC(CC(=CC(C(=O)OCC)NC=O)CP(=O)(OC(C)C)OC(C)C)C | C19H34NO8P
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | trimethylbromosilane | 105.6 mmol, 13.7 ml | C[Si](Br)(C)C | C3H9BrSi
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-amino-6-hydroxy-4-phosphonomethyl-hept-3-enoate | NC(C(=O)OCC)C=C(CC(C)O)CP(=O)(O)O | C10H20NO6P
